US05188922
Next, in an atmosphere of nitrogen, 0.64 g (28 mmoles) of metallic sodium was added in five portions to 90 ml of anhydrous methanol to prepare a methanolic solution of sodium methoxide. To the methanolic solution was added 10.2 g (57.3 mmoles) of 2,3-dicyanonaphthalene. While thoroughly stirring the mixture, anhydrous ammonia gas was bubbled into the mixture slowly over a period of about one hour at room temperature. Then, the mixture was heated under reflux for about 3 hours while bubbling anhydrous ammonia gas. After cooling the mixture, the deposited yellow-colored solid product was collected by filtration, thoroughly washed with methanol and dried in vacuum. Thus, about 9.5 g (86%) of 1,3-diiminobenzo(f)isoindoline was obtained as a yellow colored solid. It was used in the subsequent reaction without purification.

reactant | sodium | 28 mmoles, 0.64 g | [Na] | Na
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2,3-dicyanonaphthalene | 57.3 mmoles, 10.2 g | C(#N)C1=CC2=CC=CC=C2C=C1C#N | C12H6N2
reactant | ammonia | N | H3N
solvent | methanol | 90 ml | CO | CH4O
product | 1,3-diiminobenzo(f)isoindoline | about 9.5 g, 86% | N=C1NC(C=2C=C3C(=CC12)C=CC=C3)=N | C12H9N3
